US08557830B2
A suspension of 6-bromo-9H-purine (4.3 g, 22 mmol) in anhydrous DMF (40 mL) was treated with potassium carbonate (9.0 g, 65 mmol) and stirred for 20 min at room temperature (22° C.). The mixture was treated with 4-methoxybenzyl chloride (5.9 mL, 43 mmol) and allowed to stir for 20 h at 45° C. The solids were removed by suction filtration and the solvent removed in vacuo. The resulting crude oil was partitioned between water and 3:1 CHCl3:IPA (100 mL each). The aqueous layer was extracted with 3:1 CHCl3:IPA (100 mL). The combined organic extract was washed with saturated NaCl (70 mL), dried over Na2SO4, filtered, and concentrated in vacuo to a viscous oil. The crude product was chromatographed through a Redi-Sep® pre-packed silica gel column (330 g), eluting with a gradient of 40% to 70% EtOAc in hexane, to provide 9-(4-methoxybenzyl)-6-bromo-9H-purine (2.7 g, 39% yield) as a white waxy solid; 1H NMR (400 MHz, DMSO-d6) □ ppm 3.71 (s, 3H), 5.44 (d, J=4.02 Hz, 2H), 6.90 (d, J=8.03 Hz, 2H), 7.34 (d, J=8.53 Hz, 2H), 8.76 (d, J=22.59 Hz, 1H), 8.81 (s, 1H).

reactant | 6-bromo-9H-purine | 22 mmol, 4.3 g | BrC1=C2N=CNC2=NC=N1 | C5H3BrN4
reactant | potassium carbonate | 65 mmol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzyl chloride | 43 mmol, 5.9 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 9-(4-methoxybenzyl)-6-bromo-9H-purine | 2.7 g, 39% yield | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)Br)C=C1 | C13H11BrN4O
